US07667041B2
To a DMF (50 mL) solution of 4-fluoro-3-methoxybenzaldehyde (3.00 g) and 4-methylimidazole (3.307 g), potassium carbonate (4.05 g) was added and the reaction mixture was agitated at 100° C. overnight. The obtained reaction mixture was concentrated under reduced pressure, water and ethyl acetate were added to the residue, and the organic layer was partitioned. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent:hexane-ethyl acetate system), and 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (856 mg) and 3-methoxy-4-(5-methyl-1H-imidazol-1-yl)benzaldehyde (44 mg) were obtained.

reactant | 4-fluoro-3-methoxybenzaldehyde | 3.00 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | 4-methylimidazole | 3.307 g | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | 4.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-methoxy-4-(5-methyl-1H-imidazol-1-yl)benzaldehyde | 44 mg | COC=1C=C(C=O)C=CC1N1C=NC=C1C | C12H12N2O2
